US07157488B2
N-(2-(5-Carboxy-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine
Combine N-(2-(5-methoxycarbonyl-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine (200 mg, 0.5 mmol) in 50 mL THF and 1 mL 3 N NaOH. Reflux the mixture overnight, treat with 0.7 mL 5N HCl and concentrate to dryness. Chromatograph to give the title compound: ISMS 393 (M+1); Analysis for C20H19F3N2O3 CF3COOH 1.2C7H8 2.1H2O: calcd: C, 55.76; H, 5.20; N, 4.28; found: C, 55.51; H, 5.47; N, 4.50.

reactant | N-(2-(5-methoxycarbonyl-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine | 0.5 mmol, 200 mg | COC(=O)C=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OCC(F)(F)F | C21H21F3N2O3
reactant | HCl | 5N, 0.7 mL | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | NaOH | 3 N, 1 mL | [OH-].[Na+]
product | N-(2-(5-Carboxy-1H-indol-3-yl)ethyl)-3-(2,2,2-trifluoroethoxy)benzylamine | C(=O)(O)C=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OCC(F)(F)F | C20H19F3N2O3
